US09326516B2
(R)-1-(2-Hydroxy-1-phenylethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C5)
The title compound was prepared with (R)-2-amino-2-phenylethanol and 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole (Lambert, W.; et al., WO 2011017513) and isolated as an off-white solid (0.285 g, 69%): mp 98-101° C.; 1H NMR (400 MHz, DMSO-d6) δ 9.99 (s, 1H), 9.37 (s, 1H), 8.40 (d, J=7.9 Hz, 1H), 8.07-8.01 (m, 4H), 7.73 (d, J=7.7 Hz, 2H), 7.61 (d, J=8.5 Hz, 2H), 7.38-7.24 (m, 5H), 5.42 (s, 1H), 5.12 (s, 1H), 3.73 (s, 2H); ESIMS m/z 500 ([M+H]+).

reactant | (R)-2-amino-2-phenylethanol | N[C@@H](CO)C1=CC=CC=C1 | C8H11NO
reactant | 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C16H9F3N4OS
product | (R)-1-(2-Hydroxy-1-phenylethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | OC[C@@H](C1=CC=CC=C1)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C24H20F3N5O2S
